* source LB8
C_C1         0 VOUT1  1u  TC=0,0 
R_R1         VIN VOUT1  159.155 TC=0,0 
V_V1         VIN 0  AC 2.5
+SIN 0 2.5 0 0 0 0
C_C3         VOUT2 VIN  1u  TC=0,0 
R_R3         0 VOUT2  1.59155 TC=0,0 
R_R4         VIN N15984  1.59155 TC=0,0 
R_R5         0 VOUT3  159.155 TC=0,0 
C_C4         N15984 VOUT3  1u  TC=0,0 
C_C5         0 N15984  1u  TC=0,0 
R_R6         VIN N16740  160 TC=0,0 
R_R7         0 VOUT4  16k TC=0,0 
C_C6         N16740 VOUT4  1u  TC=0,0 
C_C7         0 N16740  1u  TC=0,0 
